US04863920
3.73 g (10 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to 100° in a pressure tube for 20 hours with 0.87 g of 3-methyl-1-butyne, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 19 mg of copper(I) iodide in 20 ml of diethylamine and 10 ml of ethylene chloride. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained a mixture of product and starting material of about 2:1. In order to remove the starting material, the mixture was heated under reflux the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained a mixture of product and starting material of about 2:1. In order to remove the starting material, the mixture was heated under reflux for 5 hours with 0.8 ml of 2-methyl-3-butyn-2-ol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 15 mg of copper(I) iodide in 15 ml of diethylamine. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate the byproduct can be separated from the desired product. After recrystallization from ether there was obtained 7-chloro-4,5-dihydro-5-methyl-3-(3-methyl-1-butynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 128°-130°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.73 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | 3-methyl-1-butyne | 0.87 g | CC(C#C)C | C5H8
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
solvent | ethylene chloride | 10 ml | C(CCl)Cl | C2H4Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 19 mg | [Cu]I
product | 7-chloro-4,5-dihydro-5-methyl-3-(3-methyl-1-butynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)C)C)=O | C17H16ClN3O
